US04304790
A. 4-(N-methylanilino)-2-butanone oxime
Add hydroxylamine hydrochloride (4.9 g=70 mmol) in 20 ml water to a solution of 4-(N-methylanilino)-2-butanone (12.4 g=70 mmol) and sodium carbonate (8.6 g=80 mmol) in 60 ml 50% ethanol. Stir for three days, concentrate and extract with ethyl acetate. Dry, concentrate and recrystallize from ether-hexane to obtain product having a melting point 46°-49° C.

reactant | hydroxylamine hydrochloride | 70 mmol, 4.9 g | Cl.NO
reactant | 4-(N-methylanilino)-2-butanone | 70 mmol, 12.4 g | CN(C1=CC=CC=C1)CCC(C)=O | C11H15NO
reactant | sodium carbonate | 80 mmol, 8.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(N-methylanilino)-2-butanone oxime | CN(C1=CC=CC=C1)CCC(C)=NO | C11H16N2O
